US08604040B2
Cyclohexyl 6-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-pyridine-2-carboxylate
To a solution of 6-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-pyridine-2-carboxylic acid (157 mg) in dichloromethane (5 ml) are added, at room temperature, cyclohexanol (42 mg), 4-dimethylaminopyridine (4.6 mg) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (80 mg). The mixture is stirred at room temperature overnight, and then water is added. The aqueous phase is removed and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The residue is purified by chromatography. This gives cyclohexyl 6-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)pyridine-2-carboxylate (87 mg).

reactant | 6-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-pyridine-2-carboxylic acid | 157 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C1=CC=CC(=N1)C(=O)O)F | C18H18F4N4O3
reactant | cyclohexanol | 42 mg | C1(CCCCC1)O | C6H12O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 80 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Cyclohexyl 6-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-pyridine-2-carboxylate | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C1=CC=CC(=N1)C(=O)OC1CCCCC1)F | C24H28F4N4O3
